US08022223B2
Step A: Preparation of 3-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)-N-(2-oxopropyl)propanamide:
A mixture of 3-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)propanoic acid (0.800 g, 1.90 mmol), HOBT-H2O (0.437 g, 2.86 mmol), DIEA (1.36 mL, 7.80 mmol), EDCI (0.547 g, 2.86 mmol), and 1-aminopropan-2-one hydrochloride (0.834 g, 7.61 mmol) in 50 mL THF was stirred at 50° C. for 2 days. The mixture was concentrated and diluted with CH2Cl2 and washed with water, dried over sodium sulfate and concentrated to a residue that was carried on to the next step without further purification.

reactant | 3-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)propanoic acid | 1.90 mmol, 0.800 g | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CCC(=O)O)OC1=CC=CC=C1 | C17H14BrN3O3S
reactant | HOBT H2O | 2.86 mmol, 0.437 g | C=1C=CC2=C(C1)N=NN2O.O
reactant | DIEA | 7.80 mmol, 1.36 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 2.86 mmol, 0.547 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1-aminopropan-2-one hydrochloride | 7.61 mmol, 0.834 g | Cl.NCC(C)=O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)-N-(2-oxopropyl)propanamide | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CCC(=O)NCC(C)=O)OC1=CC=CC=C1 | C20H19BrN4O3S
